US06956042B2
1-Benzyl-1,7-diazaspiro[4.4]nonane
Lithium aluminum hydride (1.98 g, 52.2 mmol) was added in portions, under argon, to a ice bath cooled solution of 6-benzyl-2,6-diazaspiro[4.4]nonan-1-one (4.00 g, 17.4 mmol) in dry THF (100 mL). The addition funnel was replaced with a reflux condenser, and the mixture was heated at reflux for 24 h. The mixture was cooled to 0° C. and treated drop-wise (caution: exothermic reaction) with 10 M aqueous sodium hydroxide until hydrogen evolution ceased and the aluminate salts were granular. The mixture was stirred 1 h at 0° C. and filtered through Celite. The filtrate was dried (K2CO3) and concentrated, leaving 3.60 g (95.7%) of viscous, colorless liquid.

reactant | Lithium aluminum hydride | 52.2 mmol, 1.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-benzyl-2,6-diazaspiro[4.4]nonan-1-one | 17.4 mmol, 4.00 g | C(C1=CC=CC=C1)N1C2(CCNC2=O)CCC1 | C14H18N2O
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-1,7-diazaspiro[4.4]nonane | C(C1=CC=CC=C1)N1CCCC12CNCC2 | C14H20N2
